US06518265B1
1-[2-(1-Amidino-4-piperidyl)ethyl]-4-chloro-2-phenyl-1H-imidazo[4,5-c]-quinoline Hydrochloride
A solution of 0.75 g of 4-chloro-2-phenyl-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline, 0.40 g of 1H-pyrazole-1-carboxyamidine hydrochloride and 0.39 ml of triethylamine in 5 ml of N,N-dimethylformamide was stirred at room temperature for 19 hours. The reaction solution was concentrated and the residue was added with ethanol, and then the precipitated crystals were collected by filtration to give 0.51 g of colorless crystals. Recrystallization from ethanol gave colorless crystals having the melting point of from 270 to 273° C. (decomposition).

reactant | 4-chloro-2-phenyl-1-[2-(4-piperidyl)ethyl]-1H-imidazo-[4,5-c]quinoline | 0.75 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCNCC2)C2=CC=CC=C2 | C23H23ClN4
reactant | triethylamine | 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[2-(1-Amidino-4-piperidyl)ethyl]-4-chloro-2-phenyl-1H-imidazo[4,5-c]-quinoline Hydrochloride | 0.51 g | Cl.C(N)(=N)N1CCC(CC1)CCN1C(=NC=2C(=NC=3C=CC=CC3C21)Cl)C2=CC=CC=C2 | InChI=1S/C24H25ClN6.ClH/c25-22-20-21(18-8-4-5-9-19(18)28-22)31(23(29-20)17-6-2-1-3-7-17)15-12-16-10-13-30(14-11-16)24(26)27;/h1-9,16H,10-15H2,(H3,26,27);1H
